US09120749B2
tert-butyl 1-(5-(6-bromo-3-propionylquinolin-4-ylamino)pyridin-2-yl)piperidin-3-ylcarbamate
Following general procedure B, 1-(6-bromo-4-chloroquinolin-3-yl)propan-1-one (235 mg, 0.792 mmol) was reacted with tert-butyl 1-(5-aminopyridin-2-yl)piperidin-3-ylcarbamate (348 mg, 1.19 mmol) to afford the desired product (94 mg, 21%) as an orange solid: ESI MS m/z 554, [C27H32BrN5O3+H]+

reactant | 1-(6-bromo-4-chloroquinolin-3-yl)propan-1-one | 0.792 mmol, 235 mg | BrC=1C=C2C(=C(C=NC2=CC1)C(CC)=O)Cl | C12H9BrClNO
reactant | tert-butyl 1-(5-aminopyridin-2-yl)piperidin-3-ylcarbamate | 1.19 mmol, 348 mg | NC=1C=CC(=NC1)N1CC(CCC1)NC(OC(C)(C)C)=O | C15H24N4O2
product | tert-butyl 1-(5-(6-bromo-3-propionylquinolin-4-ylamino)pyridin-2-yl)piperidin-3-ylcarbamate | 94 mg, 21% | BrC=1C=C2C(=C(C=NC2=CC1)C(CC)=O)NC=1C=CC(=NC1)N1CC(CCC1)NC(OC(C)(C)C)=O | C27H32BrN5O3
